US08445501B2
4-(5-Acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-((S)-2-hydroxy-propanoyl)piperidin-4-yl]-amide
To a solution of 4-(5-acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid from example A81 (43 mg; 0.12 mmol) in dichloromethane (2 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.16 mmol), triethylamine (0.24 mmol) and 1-hydroxybenzotriazole (0.12 mmol). The suspension is stirred for 20 min at ambient temperature and then (S)-1-(4-amino-piperidin-1-yl)-2-hydroxy-propan-1-one hydrochloride from example A190 (0.16 mmol) is added. The reaction mixture is stirred overnight at ambient temperature. The volatiles are evaporated and the crude is distributed between ethyl acetate and aqueous phosphate buffer (1M, pH=7). The organic phase is separated, washed with aqueous phosphate buffer and evaporated to dryness. The obtained crude product is purified by preparative HPLC yielding 38 mg of the title compound as white solid.

reactant | 4-(5-acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O)OCC2CC2 | C19H17N3O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 mmol | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.24 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.12 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-1-(4-amino-piperidin-1-yl)-2-hydroxy-propan-1-one hydrochloride | Cl.NC1CCN(CC1)C([C@H](C)O)=O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(5-Acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-((S)-2-hydroxy-propanoyl)piperidin-4-yl]-amide | 38 mg | O[C@H](C(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C(C)=O)OCC2CC2)C | C27H31N5O5
